US06136823
Synthesis of 1-(6-Amino-3-fluoropyridin-2-yl)-8-chloro-6-fluoro-7-methylamino-4-oxo-1,4-dihydroquinoline-3-carboxylic Acid
1-(6-Amino-3-fluoropyridin-2-yl)-8-chloro-6,7-difluoro-4-oxo-1,4-dihydroquinoline-3-carboxylic acid (45 mg) and a 40% aqueous solution (50 mg) of methylamine were added to pyridine (200 mg), and the mixture was stirred at room temperature for 5 hours. The solvent was distilled off under reduced pressure, and ethanol (0.5 ml) was added to the residue. Deposits were collected by filtration and washed successively with methanol and diisopropyl ether to obtain the title compound (182 mg) as a yellow powder.

reactant | 1-(6-Amino-3-fluoropyridin-2-yl)-8-chloro-6,7-difluoro-4-oxo-1,4-dihydroquinoline-3-carboxylic acid | 45 mg | NC1=CC=C(C(=N1)N1C=C(C(C2=CC(=C(C(=C12)Cl)F)F)=O)C(=O)O)F | C15H7ClF3N3O3
reactant | methylamine | CN | CH5N
solvent | pyridine | 200 mg | N1=CC=CC=C1 | C5H5N
product | 1-(6-Amino-3-fluoropyridin-2-yl)-8-chloro-6-fluoro-7-methylamino-4-oxo-1,4-dihydroquinoline-3-carboxylic Acid | 182 mg | NC1=CC=C(C(=N1)N1C=C(C(C2=CC(=C(C(=C12)Cl)NC)F)=O)C(=O)O)F | C16H11ClF2N4O3
